US04582716
There have been many attempts to fix aldehyde-generating volatile compounds in a variety of substrata. The most notable example is set out hereinbelow. The efficacy of such a fix is about 2% by weight. U.S. Pat. No. 3,314,803, issued to Dame et al. discloses a method for fixing acetaldehyde which includes first forming a solution of mannitol in water and preferably a super-saturated solution of mannitol, i.e., 25-45% mannitol solution. The super-saturated solution is formed by heating with agitation 2 to 10 parts by weight of mannitol with 10 parts by weight of water at 180°-212° F. until all of the mannitol is dissolved in water and no mannitol crystals remain in the solution. The mannitol solution is then cooled while acetaldehyde is added thereto, the acetaldehyde being continually refluxed and thereby condensed into mannitol solution until about 1 to 2 parts by weight of acetaldehyde are dissolved in a 10 parts by weight of water. The solution is then spray-dried with an initial acetaldehyde fix of approximately 4%-10% being obtained thereby. However, after one week exposure the level of acetaldehyde depleted to about 2.4% by weight of the total composition.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | water | O | H2O
product | mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
